US07825128B2
(RS)—N-(ethoxycarbonyl)-S-[4-({4-[(2-hydroxyethyl)amino]-5-(2-thienyl)-pyrimidine-2-yl}amino)phenyl]-S-methylsulfoximide
In the reaction of 2-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)ethanol (200 mg, 0.8 mmol) with (RS)—S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-methyl-sulfoximide (173 mg, 0.7 mmol) according to procedure 5a, the desired product is obtained in 37% yield (120 mg) after chromatographic purification (silica gel, dichloromethane/methanol (0%-20% methanol)).

reactant | 2-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)ethanol | 0.8 mmol, 200 mg | ClC1=NC=C(C(=N1)NCCO)C=1SC=CC1 | C10H10ClN3OS
reactant | (RS)—S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-methyl-sulfoximide | 0.7 mmol, 173 mg | NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C | C10H14N2O3S
product | (RS)—N-(ethoxycarbonyl)-S-[4-({4-[(2-hydroxyethyl)amino]-5-(2-thienyl)-pyrimidine-2-yl}amino)phenyl]-S-methylsulfoximide | 37% yield | C(C)OC(=O)N=S(=O)(C)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NCCO)C=1SC=CC1 | C20H23N5O4S2
